US07872009B2
Step 4: 4-amino-6-methoxy-2,2-dimethyl-3,4-dihydronaphthalen-1(2H)-one
To a solution of 4-azido-6-methoxy-2,2-dimethyl-3,4-dihydronaphthalen-1(2H)-one (2.50 g, 10.2 mmol) in EtOH (100 mL) at RT was added palladium on carbon (1.08 g, 10.2 mmol) in two portions. A hydrogen balloon was affixed to the reaction flask and the head space above the solvent was purged with H2. After 5 hours, the solution was filtered through a plug of celite and concentrated to provide the crude product as an oil. The residue was purified by column chromatography 100% DCM to 50% (10% MeOH/DCM/1% NH4OH) to provide the title compound as a yellow oil (2.04 g, 91% yield). MS m/z: 220.2 (M+1).

reactant | 4-azido-6-methoxy-2,2-dimethyl-3,4-dihydronaphthalen-1(2H)-one | 10.2 mmol, 2.50 g | N(=[N+]=[N-])C1CC(C(C2=CC=C(C=C12)OC)=O)(C)C | C13H15N3O2
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | palladium on carbon | 10.2 mmol, 1.08 g | [Pd] | Pd
product | 4-amino-6-methoxy-2,2-dimethyl-3,4-dihydronaphthalen-1(2H)-one | 2.04 g, 91% yield | NC1CC(C(C2=CC=C(C=C12)OC)=O)(C)C | C13H17NO2
